US07834039B2
In a 250 mL round-bottomed flask was added triphenylphosphine (6.54 g, 24.92 mmol) in THF (79 ml) to give a colorless clear solution. The solution was cooled to 0° C. by ice-bath. After stirring for 15 min, diisopropyl azodicarboxylate (5.11 ml, 24.96 mmol) (orange liquid) was added dropwise over 5 min. The reaction mixture turned into off-white suspension in the process. The reaction mixture was stirred at 0° C. for 30 min. Then a colorless solution of benzyl 4-hydroxybenzoate (5.69 g, 24.92 mmol) and (R)-(2,2-dimethyl-1,3-dioxolan-4-yl)methanol (3.00 ml, 23.73 mmol) in THF (39.5 ml) was added to the mixture, keeping the temperature at or below 0° C. The solution turned clear light yellow. The solution was stirred for 2 hr at 0° C. then slowly warmed to ambient temperature and stirred over the weekend. The mixture was concentrated in vacuo to give crude yellow oil (˜27 g). The crude oil was dissolved in ether. Then heptane was added. The resultant precipitate was sonicated and filtered. The filtrate was concentrated and purified via Analogix system using RediSep RS 120 g column, with a gradient of 0-20% EtOAc/Heptane over 10 min at 50 mL/min then hold at 20% ethyl acetate for 20 min. Fractions containing product were combined and concentrated to afford (R)-benzyl 4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)benzoate as white solid (6.17 g, 23.73 mmol). LCMS (Table 1, Method c) Rt=2.89 min, m/z 343.20 (M+H)+

reactant | triphenylphosphine | 24.92 mmol, 6.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 24.96 mmol, 5.11 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | benzyl 4-hydroxybenzoate | 24.92 mmol, 5.69 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | (R)-(2,2-dimethyl-1,3-dioxolan-4-yl)methanol | 23.73 mmol, 3.00 ml | CC1(OC[C@H](O1)CO)C | C6H12O3
solvent | THF | 79 ml | C1CCOC1 | C4H8O
solvent | THF | 39.5 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | heptane | CCCCCCC | C7H16
product | (R)-benzyl 4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)benzoate | 23.73 mmol, 6.17 g | CC1(OC[C@H](O1)COC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C20H22O5
